US04783462
4-Chloro-5-[3-(4-methylphenylsulfonyloxy)propylamino]-2-t-butyl-3(2H)pyridazinone (Compound No. 15)
2.55 g of p-toluenesulfonyl chloride was added to a mixture comprising 3.16 g of 4-chloro-5-(3-hydroxypropylamino)-2-t-butyl-3(2H) pyridazinone prepared in Reference Example 4, 1.44 g of pyridine and 50 ml of dichloromethane under stirring and cooling with ice, and the mixture was stirred at the same temperature for 2 hours. Then, 2.0 g of pyridine and 2.5 g of p-toluenesulfonyl chloride were added to the reaction mixture in this order. The mixture was stirred for further 2 hours under cooling with ice, and left to stand overnight in an ice chamber. The solvent was distilled off, and the pale yellow oily substance thereby obtained was extracted with benzene. The extract was washed sequentially with dilute hydrochloric acid, water (twice) and a saturated sodium chloride aqueous solution, and dried over sodium sulfate. Then, solvent was distilled off to obtain a pale yellow oily substance. The oily substance was purified by silica gel column chromatography by using benzene-ethyl acetate (1:1, v/v) as the developer, to obtain 4.67 g of the above identified compound as a pale yellow viscous oily substance.

reactant | p-toluenesulfonyl chloride | 2.55 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-chloro-5-(3-hydroxypropylamino)-2-t-butyl-3(2H) pyridazinone | 3.16 g | ClC=1C(N(N=CC1NCCCO)C(C)(C)C)=O | C11H18ClN3O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | p-toluenesulfonyl chloride | 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 2.0 g | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1.44 g | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-5-[3-(4-methylphenylsulfonyloxy)propylamino]-2-t-butyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCCCOS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C)=O | C18H24ClN3O4S
